US08980877B2
(E)-3-[1′-(1-Methyl-1H-indol-3-ylmethyl)-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide (300 mg, 0.56 mmol) in DCM (10 ml) was treated with 4 M HCl in dioxane (1 ml) as described in Example 30, Step C, giving (E)-3-[1′-(1-methyl-1H-indol-3-ylmethyl)-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-N-hydroxy-acrylamide (215 mg, hydrochloride salt) as a light brown solid.

reactant | (E)-3-[1′-(1-Methyl-1H-indol-3-ylmethyl)-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 0.56 mmol, 300 mg | CN1C=C(C2=CC=CC=C12)CN1CC2(CCC1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)NOC2OCCCC2 | C31H35N3O5
reactant | HCl | 4 M | Cl | ClH
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | (E)-3-[1′-(1-methyl-1H-indol-3-ylmethyl)-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-N-hydroxy-acrylamide | 215 mg | CN1C=C(C2=CC=CC=C12)CN1CC2(CCC1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)NO | C26H27N3O4
